US05843940
2-(4-Methoxyphenyl)-3-[3-[3-(1-piperidinyl)propoxy]phenyl]-6-methoxybenzo[b]thiophene hydrochloride
A manner similar to that used in Example 1, 3.09 g (8 mmol) of 2-(4-Methoxyphenyl)-3-(3-hydroxyphenyl)-6-methoxybenzo[b]thiophene, 2.4 g (12 mmol) of 1-(3-chloropropyl)piperidine hydrochloride, 5.5 g (40 mmol) of K2CO3 in 200 mL of DMF was coverted to 2.8 g of the title compound, isolated as a white solid.

reactant | 2-(4-Methoxyphenyl)-3-(3-hydroxyphenyl)-6-methoxybenzo[b]thiophene | 8 mmol, 3.09 g | COC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)C2=CC(=CC=C2)O | C22H18O3S
reactant | 1-(3-chloropropyl)piperidine hydrochloride | 12 mmol, 2.4 g | Cl.ClCCCN1CCCCC1
reactant | K2CO3 | 40 mmol, 5.5 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 2-(4-Methoxyphenyl)-3-[3-[3-(1-piperidinyl)propoxy]phenyl]-6-methoxybenzo[b]thiophene hydrochloride | 2.8 g | Cl.COC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)C2=CC(=CC=C2)OCCCN2CCCCC2 | InChI=1S/C30H33NO3S.ClH/c1-32-24-12-10-22(11-13-24)30-29(27-15-14-25(33-2)21-28(27)35-30)23-8-6-9-26(20-23)34-19-7-18-31-16-4-3-5-17-31;/h6,8-15,20-21H,3-5,7,16-19H2,1-2H3;1H
